US08613914B2
(5R,8S)-7-((S)-2-{(S)-2-Cyclohexyl-2-[((S)-1-isopropyl-piperidine-2-carbonyl)-amino]-acetylamino}-3,3-dimethyl-butyryl)-10,10-dimethyl-7-aza-dispiro[3.0.4.1]decane-8-carboxylic acid methyl ester
A solution of (S)-1-isopropyl-piperidine-2-carboxylic acid (0.497 g; 2.90 mmol) and HATU (1.65 g; 4.35 mmol) in DCM (100 mL) was cooled to 0° C. and (5R,8S)-7-[(S)-2-((S)-2-Amino-2-cyclohexyl-acetylamino)-3,3-dimethyl-butyryl]-10,10-dimethyl-7-aza-dispiro[3.0.4.1]decane-8-carboxylic acid methyl ester (1.65 g; 2.90 mmol) and DIPEA (2.98 mL; 17.4 mmol) were added. The reaction mixture was stirred for 3 h at room temperature quenched with saturated aqueous bicarbonate. The aq. phase was extracted twice with DCM, the combined organic phases dried with Na2SO4, filtered and the solvent was removed in vacuo. The product was purified by preparative HPLC (method L) to yield the title compound. LC-MS (method E): Rt=1.62 min; M/z=629 [M+]; HPLC (method A3): Rt=5.01 min

reactant | (S)-1-isopropyl-piperidine-2-carboxylic acid | 2.90 mmol, 0.497 g | C(C)(C)N1[C@@H](CCCC1)C(=O)O | C9H17NO2
reactant | HATU | 4.35 mmol, 1.65 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (5R,8S)-7-[(S)-2-((S)-2-Amino-2-cyclohexyl-acetylamino)-3,3-dimethyl-butyryl]-10,10-dimethyl-7-aza-dispiro[3.0.4.1]decane-8-carboxylic acid methyl ester | 2.90 mmol, 1.65 g | COC(=O)[C@H]1N(C[C@]2(C3(CCC3)C2(C)C)C1)C([C@H](C(C)(C)C)NC([C@H](C1CCCCC1)N)=O)=O | C27H45N3O4
reactant | DIPEA | 17.4 mmol, 2.98 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | (5R,8S)-7-((S)-2-{(S)-2-Cyclohexyl-2-[((S)-1-isopropyl-piperidine-2-carbonyl)-amino]-acetylamino}-3,3-dimethyl-butyryl)-10,10-dimethyl-7-aza-dispiro[3.0.4.1]decane-8-carboxylic acid methyl ester | COC(=O)[C@H]1N(C[C@]2(C3(CCC3)C2(C)C)C1)C([C@H](C(C)(C)C)NC([C@@H](NC(=O)[C@H]1N(CCCC1)C(C)C)C1CCCCC1)=O)=O | C36H60N4O5
